US05464781
A mixture of 6-trifluoromethylpyridin-2-amine (17.2 g) and diethyl ethoxymethylenemalonate (22.9 g) was heated at 95° C., under vacuum for 8 hours. The mixture was cooled and diluted with petroleum ether b.p. 60°-80° C. (50 ml). The mixture was filtered and the residue was recrystallised from IMS to give diethyl 2-(6-trifluoromethyl-2-pyridylaminomethylene)malonate, m.p. 125°-128° C.

reactant | 6-trifluoromethylpyridin-2-amine | 17.2 g | FC(C1=CC=CC(=N1)N)(F)F | C6H5F3N2
reactant | diethyl ethoxymethylenemalonate | 22.9 g | C(C)OC=C(C(=O)OCC)C(=O)OCC | C10H16O5
product | diethyl 2-(6-trifluoromethyl-2-pyridylaminomethylene)malonate | FC(C1=CC=CC(=N1)NC=C(C(=O)OCC)C(=O)OCC)(F)F | C14H15F3N2O4
